US04626542
A cooled solution of 5.4 grams (0.021 mole) of 5-chloro-3-methoxy-5H-dibenzo[a,d]cycloheptene in 60 milliliters of tetrahydrofuran was added dropwise under an atmosphere of nitrogen to 50 milliliters of a cooled solution of 0.49M 1-methyl-4-piperidylmagnesium chloride in tetrahydrofuran (Grignard solution) over a period of about 40 minutes. After completion of the addition, the mixture was stirred at room temperature for 2 hours and then at reflux temperature for fifteen minutes. The reaction mixture was then cooled and the product recovered from the reaction mixture by concentrating the mixture in vacuo to dryness, adding toluene to dissolve the organic product, filtering off the magnesium, and then separating, washing and drying the toluene solution in a manner similar to that described in Example I. The toluene was vaporized from the dried solution to obtain a residue which was dissolved in acetonitrile, recrystallized therefrom and the crystals dried at 78° C./0.2 mm. Hg over phosphorus pentoxide for four hours to obtain the desired 4-(3-methoxy-5H-dibenzo[a,d]cyclohepten-5 -yl)-1-methylpiperidine product, m.p. 122°-23° C. Elemental analyses were as follows:

reactant | 5-chloro-3-methoxy-5H-dibenzo[a,d]cycloheptene | 0.021 mole, 5.4 grams | ClC1C2=C(C=CC3=C1C=C(C=C3)OC)C=CC=C2 | C16H13ClO
reactant | 1-methyl-4-piperidylmagnesium chloride | 0.49M | CN1CCC(CC1)[Mg]Cl
solvent | tetrahydrofuran | 60 milliliters | O1CCCC1 | C4H8O
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-(3-methoxy-5H-dibenzo[a,d]cyclohepten-5 -yl)-1-methylpiperidine | COC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)C3CCN(CC3)C)C1 | C22H25NO
